*$
* OPA164x
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA164x
* Date: 09JUN2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS484D -DECEMBER 2009-REVISED APRIL 2016
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.3
*
*****************************************************************************
*
* Updates:
*
* Final 1.3
* 1. Moved R_NOISELESS .model inside OPA164x subckt.
* 2. Updated PSpice Symbol.
*
* Final 1.2
* 1. Modified the capacitor(C14) value from 1F to 5uF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Updated Aol to match the GBW as per the datasheet.
* 3. Updated IOS current as per the datasheet.
* 4. Updated the model name from OPA1641 to OPA164x.
*
* Final 1.1
* Added Unique subckt name, removed Claw ABS. 
* Simplified subckt for current noise.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    w. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    x. INPUT/OUTPUT ESD CELLS (ESDin, ESDout) 
* 2. OPA164x model is available in single core(OPA1641), dual core(OPA1642)  
*    and quad core(OPA1644). 
* 3. Model represent the device operating at room temperature only. No 
*    temperature dependency is modeled.
*****************************************************************************
.SUBCKT OPA164x IN+ IN- VCC VEE OUT  
*****************************************************************************
C_C1          N3294772 N3294776  2.2769P   
C_C10         N3294626 N3294630  4.12U   
C_C100        N43397161 MID  3.9653P   
C_C101        N4572874 N2991553  10.178F   
C_C104        N4620279 MID  1.2F   
C_C105        N4620995 MID  8.1759E-16   
C_C106        N4621736 MID  8.1759E-16   
C_C107        N4282910 MID  8.1759E-16   
C_C13         N2992397 0  1F   
C_C14         0 N2992375  5U   
C_C15         N2992413 0  1F   
C_C16         N2991741 MID  1F   
C_C17         N2991765 MID  1F   
C_C18         N2991811 MID  1F   
C_C19         N2991831 MID  1F   
C_C20         N2991907 MID  1F   
C_C21         N2991925 MID  1F   
C_C22         MID N2991969  1F   
C_C23         N2992033 MID  1F   
C_C24         N2992029 MID  1F   
C_C25         N2992093 MID  1P   
C_C26         N2992099 MID  1P   
C_C27         SW_OL_OPA164x MID  100P   
C_C29         VIMON MID  1N   
C_C30         VOUT_S MID  1N   
C_C4          N2991657 MID  1F   
C_C5          CLAMP MID  31N   
C_C70         VCLP MID  100P   
C_C72         N4031911 MID  66.315F   
C_C74         N3827259 N3828449  164.22F   
C_C77         N3850714 N2991581  1.5877N   
C_C89         N4619507 N4619517  5.053P   
C_C93         N4243633 N2991579  1.5915N   
C_C94         N3294524 MID  2.8937E-16   
C_C_COM0      ESDP MID  6P   
C_C_COM1      MID ESDN  6P   
C_C_DIFF      ESDN ESDP  8P   
E_E1          MID 0 N2992375 0 1
E_E3          N2992163 MID OUT MID 1
E_E4          N3294618 MID CL_CLAMP MID 1
G_G1          N3294772 MID ESDP MID -2.1692M
G_G12         CLAW_CLAMP MID N3294524 MID -1M
G_G13         CL_CLAMP MID CLAW_CLAMP MID -1M
G_G16         N3201092 MID N3294630 MID -83.6706
G_G18         VCC_B 0 VCC 0 -1
G_G19         VEE_B 0 VEE 0 -1
G_G2          N2991563 N2991555 N2991553 MID -1M
G_G20         VCC_CLP MID N2992033 MID -1M
G_G21         VEE_CLP MID N2992029 MID -1M
G_G22         N2992299 MID N2992295 MID -1
G_G23         N2992323 MID N2992331 MID -1
G_G39         N3294626 MID CL_CLAMP N2992235 -89.0517
G_G4          N3850714 MID VCC_B MID -304.95M
G_G41         N4031911 MID VSENSE MID -1U
G_G5          N2991587 N2991583 N2991581 N2991579 -1M
G_G59         N4619507 MID N4031911 MID -654
G_G6          VSENSE MID CLAMP MID -1M
G_G63         N4243633 MID VEE_B MID -133.45M
G_G64         N3294524 MID N4282910 MID -1U
G_G71         N3827259 MID N4339672 MID -1
G_G72         N4572874 MID N3294776 MID -36.1316
G_G75         N4620279 MID N4619517 MID -1U
G_G76         N4620995 MID N4620279 MID -1U
G_G77         N4621736 MID N4620995 MID -1U
G_G78         N4282910 MID N4621736 MID -1U
I_I_B         N2991573 MID DC 2P  
I_I_OS        ESDN MID DC -1.5F  
I_I_Q         VCC VEE DC 1.8M  
R_R15 N2991583 N2991563 1M R_NOISELESS
R_R16 N2991587 N2991583 1K R_NOISELESS
R_R167 N3294618 VCLP 100 R_NOISELESS
R_R17 N2991619 ESDN 1M R_NOISELESS
R_R171 MID N4031911 1MEG R_NOISELESS
R_R176 MID N3827259 1 R_NOISELESS
R_R178 N3828449 N3827259 10K R_NOISELESS
R_R179 MID N3828449 6.7534 R_NOISELESS
R_R18 MID N2991623 1T R_NOISELESS
R_R187 N2991581 N3850714 100MEG R_NOISELESS
R_R189 MID N3850714 1 R_NOISELESS
R_R19 MID N2991635 1T R_NOISELESS
R_R190 MID N2991581 45.5638 R_NOISELESS
R_R20 N2991643 MID 1 R_NOISELESS
R_R21 N2991657 N2991643 1M R_NOISELESS
R_R22 MID N2991667 1MEG R_NOISELESS
R_R223 N4619517 N4619507 10K R_NOISELESS
R_R224 MID N4619507 1 R_NOISELESS
R_R225 MID N4619517 15.31 R_NOISELESS
R_R23 MID CLAMP 1MEG R_NOISELESS
R_R230 N2991579 N4243633 100MEG R_NOISELESS
R_R233 MID N2991579 33.3333 R_NOISELESS
R_R234 MID N4243633 1 R_NOISELESS
R_R235 MID N3294524 1MEG R_NOISELESS
R_R24 MID VSENSE 1K R_NOISELESS
R_R250 N4339672 N3201092 165.044552K R_NOISELESS
R_R251 N43397161 N4339672 10K R_NOISELESS
R_R252 MID N3201092 1 R_NOISELESS
R_R253 N2991553 N4572874 100MEG R_NOISELESS
R_R254 MID N4572874 1 R_NOISELESS
R_R255 MID N2991553 2.846444MEG R_NOISELESS
R_R262 MID N4620279 1MEG R_NOISELESS
R_R263 MID N4620995 1MEG R_NOISELESS
R_R264 MID N4621736 1MEG R_NOISELESS
R_R265 MID N4282910 1MEG R_NOISELESS
R_R32 MID CLAW_CLAMP 1K R_NOISELESS
R_R33 MID CL_CLAMP 1K R_NOISELESS
R_R34 N3294630 N3294626 10K R_NOISELESS
R_R35 MID N3294626 1 R_NOISELESS
R_R36 MID N3294630 120.9619 R_NOISELESS
R_R43 MID N3294682 1 R_NOISELESS
R_R46 VCC_B 0 1 R_NOISELESS
R_R47 VCC_B N2992397 1M R_NOISELESS
R_R48 N2992397 N2992375 1MEG R_NOISELESS
R_R49 N2992375 0 1T R_NOISELESS
R_R5 MID N3294772 1 R_NOISELESS
R_R50 N2992375 N2992413 1MEG R_NOISELESS
R_R51 N2992413 VEE_B 1M R_NOISELESS
R_R52 VEE_B 0 1 R_NOISELESS
R_R53 VCC_CLP MID 1T R_NOISELESS
R_R54 N2991729 MID 1 R_NOISELESS
R_R55 N2991741 N2991729 1M R_NOISELESS
R_R56 VEE_CLP MID 1T R_NOISELESS
R_R57 N2991763 MID 1 R_NOISELESS
R_R58 N2991765 N2991763 1M R_NOISELESS
R_R59 N2991807 MID 1T R_NOISELESS
R_R6 N3294776 N3294772 100MEG R_NOISELESS
R_R60 N2991809 MID 1 R_NOISELESS
R_R61 N2991811 N2991809 1M R_NOISELESS
R_R62 N2991831 N2991837 1M R_NOISELESS
R_R63 N2991849 MID 1T R_NOISELESS
R_R64 N2991837 MID 1 R_NOISELESS
R_R65 N2991901 MID 1T R_NOISELESS
R_R66 N2991905 MID 1 R_NOISELESS
R_R67 N2991907 N2991905 1M R_NOISELESS
R_R68 N2991925 N2991931 1M R_NOISELESS
R_R69 N2991943 MID 1T R_NOISELESS
R_R7 MID N3294776 11.367146K R_NOISELESS
R_R70 N2991931 MID 1 R_NOISELESS
R_R71 N2991969 VSENSE 1M R_NOISELESS
R_R72 VCC_B N2991997 1K R_NOISELESS
R_R73 N2991997 N2992033 1M R_NOISELESS
R_R74 N2992001 VEE_B 1K R_NOISELESS
R_R75 N2992001 N2992029 1M R_NOISELESS
R_R76 MID VCC_CLP 1K R_NOISELESS
R_R77 VEE_CLP MID 1K R_NOISELESS
R_R78 N2992323 MID 1 R_NOISELESS
R_R79 N2992299 MID 1 R_NOISELESS
R_R8 N2991563 N2991555 1K R_NOISELESS
R_R80 V11 N2992093 100 R_NOISELESS
R_R81 V12 N2992099 100 R_NOISELESS
R_R82 N2992105 MID 1 R_NOISELESS
R_R83 N2992105 SW_OL_OPA164x 100 R_NOISELESS
R_RDUMMY MID N2992235 1.584893K R_NOISELESS
R_RS_INN IN- ESDN 10M R_NOISELESS
R_RS_INP IN+ ESDP 10M R_NOISELESS
R_RX N2992235 N3294682 15.84893K R_NOISELESS
R_RX1 MID N2992151 1T R_NOISELESS
R_RX2 VIMON N2992151 100 R_NOISELESS
R_RX3 MID N2992163 1T R_NOISELESS
R_RX4 VOUT_S N2992163 100 R_NOISELESS
R_R_CM1 ESDP MID 1T R_NOISELESS
R_R_CM2 MID ESDN 1T R_NOISELESS
V_VCM_MAX     N2991623 VCC_B -3.5
V_VCM_MIN     N2991635 VEE_B -100M
V_VOS         N2991555 N2991573 997U
V_V_GRN       N2991943 MID -60
V_V_GRP       N2991901 MID 60
V_V_ISCN      N2991849 MID -29
V_V_ISCP      N2991807 MID 36.6
V_V_ORN       N2992295 VCLP -11.9378
V_V_ORP       N2992331 VCLP 11.855
X_H1          N2992235 OUT N2992151 MID BLOCK_DC_H1_OPA164x 
X_H2          N2992287 N2992323 V12 MID BLOCK_DC_H2_OPA164x 
X_H3          N2992267 N2992299 V11 MID BLOCK_DC_H3_OPA164x 
S_S1         N2992267 CLAMP N2992267 CLAMP _S1_OPA164x
RS_S1         N2992267 CLAMP 1G
S_S2         CLAMP N2992287 CLAMP N2992287 _S2_OPA164x
RS_S2         CLAMP N2992287 1G
X_U1          ESDP N2991573 VNSE_OPA164x FLW=0.1 GLF=0.02246 RNV=30.241
X_U10         VCC_CLP VEE_CLP VOUT_S MID N2991729 N2991763 CLAMP_AMP_LO_OPA164x 
+  G=1
X_U11         N2991807 N2991849 VIMON MID N2991809 N2991837 CLAMP_AMP_LO_OPA164x
+  G=1
X_U12         N2991901 N2991943 N2991969 MID N2991905 N2991931 CLAMP_AMP_HI_OPA164x
+  G=10
X_U16         MID N2992105 N2992093 N2992099 OL_SENSE_OPA164x
X_U18         VIMON MID N2991997 VCC_B CLAWP_OPA164x
X_U19         MID VIMON VEE_B N2992001 CLAWN_OPA164x
X_U21         OUT VCC VEE ESD_OUT_OPA164x
X_U22         N2991811 N2991831 CL_CLAMP MID CL_SRC_OPA164x GAIN=1 IPOS=0.24E1
+  INEG=-0.24E1
X_U23         N2991907 N2991925 CLAMP MID GR_SRC_OPA164x GAIN=1 IPOS=1.3E1
+  INEG=-1.3E1
X_U25         SW_OL_OPA164x MID N3294626 N3294630 SW_OL_OPA164x
X_U26         VIMON MID VCC MID IQ_SRC_OPA164x GAIN=1E-3
X_U27         MID VIMON MID VEE IQ_SRC_OPA164x GAIN=1E-3
X_U30         N2991657 N2991619 MID N2991667 AOL_1_OPA164x GAIN=1E-4 IPOS=.5
+  INEG=-.5
X_U31         N2991667 MID MID CLAMP AOL_2_OPA164x GAIN=0.021535 IPOS=0.6333
+  INEG=-0.6338
X_U32         N3828449 MID MID N3294682 ZO_SRC_OPA164x GAIN=1481.7407
+  IPOS=1.2E5 INEG=-1.2E5
X_U35         N2991741 N2991765 CLAW_CLAMP MID CLAW_SRC_OPA164x GAIN=1
+  IPOS=0.12E1 INEG=-0.12E1
X_U37         MID N2991573 FEMT_OPA164x NVRF=0.8
X_U38         ESDN MID FEMT_OPA164x NVRF=0.8
X_U5          ESDN ESDP VCC VEE ESD_IN_OPA164x
X_U6          N2991587 MID N2991643 MID N2991623 N2991635 VCM_CLAMP_OPA164x 
+  GAIN=1
.MODEL R_NOISELESS R (TNOM=27 TC1=0 TC2=0)
.ENDS OPA164x
*
.SUBCKT BLOCK_DC_H1_OPA164x 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_OPA164x
*
.SUBCKT BLOCK_DC_H2_OPA164x 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_OPA164x
*
.SUBCKT BLOCK_DC_H3_OPA164x 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_OPA164x
*
*
*
.SUBCKT AOL_1_OPA164x VC+ VC- IOUT+ IOUT-
.param GAIN=1E-4
.param IPOS=.5
.param INEG=-.5
B1 IOUT+ IOUT- I={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPA164x
*
.SUBCKT AOL_2_OPA164x VC+ VC- IOUT+ IOUT-
.param GAIN=0.021535
.param IPOS=0.6333
.param INEG=-0.6338
B1 IOUT+ IOUT- I={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPA164x
*
.SUBCKT CLAMP_AMP_HI_OPA164x VC+ VC- VIN COM VO+ VO-
.param G=10
BVO+ COM VO+ I={((V(VIN,COM)>V(VC+,COM)) ? (((V(VIN,COM)-V(VC+,COM))*G)) : (0))}
BVO- COM VO- I={((V(VIN,COM)<V(VC-,COM)) ? (((V(VC-,COM)-V(VIN,COM))*G)) : (0))}
.ENDS  CLAMP_AMP_HI_OPA164x
*
.SUBCKT CLAMP_AMP_LO_OPA164x VC+ VC- VIN COM VO+ VO-
.param G=1
BVO+ COM VO+ I={((V(VIN,COM)>V(VC+,COM)) ? (((V(VIN,COM)-V(VC+,COM))*G)) : (0))}
BVO- COM VO- I={((V(VIN,COM)<V(VC-,COM)) ? (((V(VC-,COM)-V(VIN,COM))*G)) : (0))}
.ENDS  CLAMP_AMP_LO_OPA164x
*
.SUBCKT CLAWN_OPA164x VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,        2.1186E-4)
+(9.66,    0.00036002)
+(19.3199, 0.00036763)
+(25.7599, 0.00037452)
+(26.0819, 0.00037487)
+(26.7259, 0.00037556)
+(27.3699, 0.00037625)
+(28.0139, 0.00037694)
+(28.6579, 0.00072576)
+(29,       0.0018986)
.ENDS  CLAWN_OPA164x
*
.SUBCKT CLAWP_OPA164x VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,        2.1186E-4)
+(12.1998,  0.0003505)
+(24.3996, 0.00037005)
+(32.5328, 0.00049199)
+(32.9395, 0.00050932)
+(33.7528, 0.00055193)
+(34.5661,  0.0006607)
+(35.3794, 0.00086684)
+(36.1927,  0.0014151)
+(36.6,     0.0018692)
.ENDS  CLAWP_OPA164x
*
.SUBCKT CLAW_SRC_OPA164x VC+ VC- IOUT+ IOUT-
.param GAIN=1
.param IPOS=0.12E1
.param INEG=-0.12E1
B1 IOUT+ IOUT- I={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_OPA164x
*
.SUBCKT CL_SRC_OPA164x VC+ VC- IOUT+ IOUT-
.param GAIN=1
.param IPOS=0.24E1
.param INEG=-0.24E1
B1 IOUT+ IOUT- I={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_OPA164x
*
.SUBCKT ESD_IN_OPA164x ESDN ESDP VCC VEE
.MODEL ESD_SW SW(RON=50 ROFF=1E12 VT=0.475 VH=0.025)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_OPA164x
*
.SUBCKT ESD_OUT_OPA164x OUT VCC VEE
.MODEL ESD_SW SW(RON=50 ROFF=1E12 VT=0.475 VH=0.025)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_OPA164x
*
.SUBCKT FEMT_OPA164x 1 2
.param NVRF=0.8
E1 3 0 5 0 10
R1 5 0 0.75776
R2 5 0 0.75776
G1 1 2 3 0 1E-6
.ENDS  FEMT_OPA164x
*
.SUBCKT GR_SRC_OPA164x VC+ VC- IOUT+ IOUT-
.param GAIN=1
.param IPOS=1.3E1
.param INEG=-1.3E1
B1 IOUT+ IOUT- I={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_OPA164x
*
.SUBCKT IQ_SRC_OPA164x VC+ VC- IOUT+ IOUT-
.param GAIN=1E-3
B1 IOUT+ IOUT- I={(((V(VC+,VC-)<=0)) ? (0) : (GAIN*V(VC+,VC-)))}
.ENDS  IQ_SRC_OPA164x
*
.SUBCKT OL_SENSE_OPA164x COM SW+ OLN OLP
BSW+ COM SW+ I={max(V(OLN,COM)>10E-3, V(OLP,COM)>10E-3) ? 1 : 0}
.ENDS  OL_SENSE_OPA164x
*
.SUBCKT SW_OL_OPA164x CTRL MID CAP_L CAP_R
.MODEL OL_SW SW(RON=0.001 ROFF=1E12 VT=0.85 VH=0.05)
S1 CAP_L CAP_R CTRL MID OL_SW
.ENDS  SW_OL_OPA164x
*
.SUBCKT VCM_CLAMP_OPA164x VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param GAIN=1
B1 IOUT+ IOUT- I={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPA164x
*
.SUBCKT VNSE_OPA164x 1 2
.param FLW=0.1
.param GLF=0.02246
.param RNV=30.241
.MODEL DVN D KF=3.16228e-12 IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 0.02246
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 30.241
R5 5 0 30.241
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPA164x
*
.SUBCKT ZO_SRC_OPA164x VC+ VC- IOUT+ IOUT-
.param GAIN=1481.7407
.param IPOS=1.2E5
.param INEG=-1.2E5
B1 IOUT+ IOUT- I={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_OPA164x
*
*
.MODEL _S1_OPA164x SW(RON=0.01 ROFF=1E12 VT=0.005 VH=0.005)
.MODEL _S2_OPA164x SW(RON=0.01 ROFF=1E12 VT=0.005 VH=0.005)
